US06492550B2
Methyl 5-tert-Butoxycarbonyl-2-hydroxypentanoate
Crude methyl 5-tert-butoxycarbonyl-2-oxopentanoate (1.08 g, 4.7 mmol) and sodium triacetoxyborohydride (1.0 g, 4.7 mmol) were reacted by the same procedure as described in Example 1 for the preparation of methyl 7-tert-butoxycarbonyl-2-hydroxyheptanoate to give the title compound (854 mg, 78%, 2 steps) as a colorless liquid.

reactant | methyl 5-tert-butoxycarbonyl-2-oxopentanoate | 4.7 mmol, 1.08 g | C(C)(C)(C)OC(=O)CCCC(C(=O)OC)=O | C11H18O5
reactant | sodium triacetoxyborohydride | 4.7 mmol, 1.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methyl 7-tert-butoxycarbonyl-2-hydroxyheptanoate | C(C)(C)(C)OC(=O)CCCCCC(C(=O)OC)O | C13H24O5
product | Methyl 5-tert-Butoxycarbonyl-2-hydroxypentanoate | 854 mg, 78% | C(C)(C)(C)OC(=O)CCCC(C(=O)OC)O | C11H20O5
